US09062076B2
To a stirred solution of methyl 2-(6,7-dimethoxy-3,4-dihydronaphthalene-2-carboxamido)benzoate (440 mg, 1.2 mmol) in MeOH (6 mL) and THF (3 mL) was added 2N NaOH (3 mL) dropwise at room temperature. The resulting solution was stirred at room temperature for 2 hours, then quenched with 1N HCl and diluted with water. The resulting suspension was filtered and the solid was dried under vacuum to give 2-(6,7-dimethoxy-1,2-dihydronaphthalene-3-carboxamido)benzoic acid (350 mg, 83%). 1H-NMR (400 MHz, DMSO-d6) δ 2.59 (t, J=8.4 Hz, 2H), 2.83 (t, J=8.4 Hz, 2H), 3.75 (s, 3H), 3.79 (s, 3H), 6.90 (s, 1H), 6.97 (s, 1H), 7.15 (app t, J=7.6 Hz, 1H), 7.39 (s, 1H), 7.62 (m, 1H), 8.03 (dd, J=8.0, 1.6 Hz, 1H), 8.69 (d, J=8.4 Hz, 1H), 11.89 (s, 1H); LC-MS (ES-API); rt 9.22 min; m/z calculated for C20H19NO5 [M+Na]+ 376.1, found 376.1.

reactant | methyl 2-(6,7-dimethoxy-3,4-dihydronaphthalene-2-carboxamido)benzoate | 1.2 mmol, 440 mg | COC=1C=C2CCC(=CC2=CC1OC)C(=O)NC1=C(C(=O)OC)C=CC=C1 | C21H21NO5
reactant | NaOH | 2N, 3 mL | [OH-].[Na+]
solvent | MeOH | 6 mL | CO | CH4O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(6,7-dimethoxy-1,2-dihydronaphthalene-3-carboxamido)benzoic acid | 350 mg, 83% | COC=1C=C2C=C(CCC2=CC1OC)C(=O)NC1=C(C(=O)O)C=CC=C1 | C20H19NO5
